US04507498
A solution of 2.313 g of 4-[4-acetyl-3-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]-2-propylphenoxy]butanoic acid ethyl ester and 19 ml of 1.0N sodium hydroxide in 50 ml of methanol was stirred at reflux for 2 hours. Most of the methanol was removed in vacuo and the residue was acidified. The product was extracted with methylene chloride and the dried (magnesium sulfate) extract was concentrated in vacuo to give 2.058 g (93% yield) of 4-[4-acetyl-3-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]-2-propylphenoxy]butanoic acid as a viscous oil.

reactant | 4-[4-acetyl-3-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]-2-propylphenoxy]butanoic acid ethyl ester | 2.313 g | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCOCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C34H48O10
reactant | sodium hydroxide | 1.0N, 19 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-[4-acetyl-3-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]-2-propylphenoxy]butanoic acid | 2.058 g, 93% yield | C(C)(=O)C1=C(C(=C(OCCCC(=O)O)C=C1)CCC)OCCOCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC | C32H44O10
